US04795754
Potassium hydroxide (1.27 g) was dissolved in 100 ml of ethanol and 5 g of 3-(1H-tetrazol-5-yl)oxanilic acid was added to the solution, followed by stirring at room temperature for 4 hours. Crystals separated out from the reaction solution were filtered off, washed with 50% aqueous solution of ethanol and dried under reduced pressure at 40° C. in the presence of phosphorous pentoxide to obtain 4.65 g of the objective potassium 3-(1H-tetrazol-5-yl)oxanilate (yield 85%). Decomposition point: not less than 300° C.

reactant | Potassium hydroxide | 1.27 g | [OH-].[K+]
reactant | 3-(1H-tetrazol-5-yl)oxanilic acid | 5 g | N1N=NN=C1C=1C=C(NC(C(=O)O)=O)C=CC1 | C9H7N5O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | potassium 3-(1H-tetrazol-5-yl)oxanilate | 4.65 g, yield 85% | N1N=NN=C1C=1C=C(NC(C(=O)[O-])=O)C=CC1.[K+] | InChI=1S/C9H7N5O3.K/c15-8(9(16)17)10-6-3-1-2-5(4-6)7-11-13-14-12-7;/h1-4H,(H,10,15)(H,16,17)(H,11,12,13,14);/q;+1/p-1
